US08211908B2
To a solution of 0.11 g of 2-ethyl-3-fluoro-5-((methoxymethoxy)methyl)pyridine in 2 mL of 1,4-dioxane, 1 mL of 6 mol/L hydrochloric acid was added, and the mixture was stirred at 30 to 40° C. for 1 hour. After cooling to room temperature, the reaction mixture was charged with water and ethyl acetate and adjusted to pH 7.9 with a 20% aqueous sodium hydroxide solution and a saturated aqueous sodium hydrogen carbonate solution. The organic layer was separated, and the aqueous layer was extracted with ethyl acetate. The organic layer and the extract were combined, the resultant solution was washed with water and a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure to obtain 87 mg of (6-ethyl-5-fluoropyridin-3-yl)methanol as a light yellow oily substance.

reactant | 2-ethyl-3-fluoro-5-((methoxymethoxy)methyl)pyridine | 0.11 g | C(C)C1=NC=C(C=C1F)COCOC | C10H14FNO2
reactant | water | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | hydrochloric acid | 6 mol/L, 1 mL | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (6-ethyl-5-fluoropyridin-3-yl)methanol | 87 mg | C(C)C1=C(C=C(C=N1)CO)F | C8H10FNO
